US04585784
A solution of 30.5 g (0.1 mole) of [5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-yl]-acetyl chloride in 150 ml of dioxane was added slowly at 0°-5° C. to a suspension of 5.88 g (0.15 mole) of magnesium oxide and 14.3 g (0.1 mole) of L-glutamine in 300 ml of water. The resulting yellow suspension was stirred at room temperature for 64 hours. The mixture was acidified with 1N hydrochloric acid and cooled. The precipitate was collected, washed with water and air dried. It was recrystallized three times from 2-propanol to give 10.8 g of light tan solid which was subjected to chromatography on silica gel. The column was eluted with chloroform:acetic acid:methanol (95:05:4.5). The major compound bearing fraction was concentrated to dryness and the residue recrystallized from acetone, water (2:1) to give 4.5 g (10% yield) of pale yellow crystalline N-{[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-yl]-acetyl}-glutamine, hydrate (1:1), m.p. 186°-188° C.

reactant | [5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-yl]-acetyl chloride | 0.1 mole, 30.5 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)Cl)C)C=C1 | C15H13Cl2NO2
reactant | magnesium oxide | 0.15 mole, 5.88 g | [O-2].[Mg+2]
reactant | L-glutamine | 0.1 mole, 14.3 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | N-{[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-yl]-acetyl}-glutamine, hydrate | 4.5 g, 10% yield | O.ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)N[C@@H](CCC(N)=O)C(=O)O)C)C=C1 | InChI=1S/C20H22ClN3O5.H2O/c1-11-9-14(10-17(26)23-15(20(28)29)7-8-16(22)25)24(2)18(11)19(27)12-3-5-13(21)6-4-12;/h3-6,9,15H,7-8,10H2,1-2H3,(H2,22,25)(H,23,26)(H,28,29);1H2/t15-;/m0./s1
